Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
___, dizziness. 
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms ___ is a ___ ___ woman with a history of GERD, H 
pylori, and neurological workup for possible complex partial 
seizures, who presents for evaluation of 3 days of 
lightheadedness, nausea, and vomiting.  
 Yesterday morning, her symptoms got worse. She had multiple 
episodes of vomiting stomach contents & yellow/green material. 
No coffee-ground emesis and no blood in her vomit. During this 
time, she has had normal bowel movements. No constipation, 
melena, or bloody stools. No dysuria or urinary frequency.  
 In terms of her lightheadedness, it is worse when she sits or 
stands up rapidly. She has had symptoms like this before, but 
today the lightheadedness was work. No falls or loss of 
consciousness. No confusion or facial droop, per her daughter.  
 - In the ED, initial vitals were: 96.7 87 144/75 16 98% RA  
 - Exam notable for three beats of R end-gaze nystagmus and one 
beat of L end-gaze nystagmus, CN otherwise normal. ___ 
testing normal, head impulse testing normal. NO truncal ataxia. 
Gait is narrow-based, Romberg with sway without stepoff.  
 - Orthostatics:  
 Laying Down 97.9 68 126/63 19 97% RA  
 Sitting 74 146/78 18 99% RA  
 Standing 86 142/85 20 97% RA  
 - Labs notable for WBC 11.4, otherwise normal  
 - Imaging notable for CT Head & Neck without acute process  
 - Neurology was consulted and recommended: no further imaging 
or neurological intervention needed  
 - Patient was given:  
 ___ 13:02 IVF 1000 mL NS 1000 mL ___  
 ___ 13:02 IV Ondansetron 4 mg ___  
 
 -Decision was made to admit for nausea, vomiting, and 
lightheadedness  

 
Past Medical History:
 - Epigastric hernia  
 - Possible complex partial seizures  
 - HLD  
 
 
Social History:
___
Family History:
NC
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
 ===========================  
 Vital Signs: 98.5 75 131/71 16 98% RA  
 GEN: well appearing, older than stated age, nontoxic  
 HEENT: no scleral icterus, mmm  
 NECK: supple  
 CV. rrr, no m/r/g  
 PULM: normal work of breathing on room air, lungs clear 
bilaterally  
 ABD: soft, NT/ND, +bs  
 GU: no foley  
 EXT: no edema, warm  
 NEURO: alert, mentating well. PERRL. EOMI. 3 beats of vertical 
nystagmus when patient looks to the left. No other CN deficits. 
Moving all 4 extremities  
 PSYCH: mood good, affect appropriate  

DISCHARGE
-------------------
VITALS: 98.0 PO 112 / 71 64 18 96 RA  
GENERAL: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear  
NECK: Supple, JVP not elevated, no LAD  
RESP: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
ABD: +BS, soft, nondistended, nontender to palpation. No 
hepatomegaly.  
GU: no foley  
EXT: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
NEURO: CNs2-12 intact, motor function grossly normal  
 
Pertinent Results:
Admission/Discharge
--------------

___ 08:13PM URINE  HOURS-RANDOM
___ 08:13PM URINE  UHOLD-HOLD
___ 08:13PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 08:13PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
___ 08:13PM URINE  RBC-4* WBC-1 BACTERIA-FEW YEAST-NONE 
EPI-5
___ 08:13PM URINE  MUCOUS-RARE
___ 11:40AM   GLUCOSE-140* UREA N-15 CREAT-1.0 SODIUM-138 
POTASSIUM-4.4 CHLORIDE-99 TOTAL CO2-22 ANION GAP-21*
___ 11:40AM   estGFR-Using this
___ 11:40AM   WBC-11.4* RBC-4.71 HGB-12.3 HCT-39.6 MCV-84 
MCH-26.1 MCHC-31.1* RDW-14.7 RDWSD-45.1
___ 11:40AM   PLT COUNT-381

Non-Contrast CT of Head:
Unenhanced head CT: No acute intracranial process.

CTA head: Patent circle of ___ vasculature. No evidence of
stenosis,
occlusion, or aneurysm greater than 3 mm. Grossly patent major
dural venous
sinuses. Possible small, 2 mm infundibulum near the origin of 
the
left
posterior communicating artery (5, 238).

CT neck: Patent bilateral vertebral and carotid arteries. Mild
narrowing of
the proximal right ICA due to calcific atherosclerotic disease
(5, 170). No
left ICA narrowing.

 
Brief Hospital Course:
In brief, this patient is a ___ ___ woman with a 
history of GERD, H pylori, and neurological workup for possible 
complex partial seizures, who presents for evaluation of 3 days 
of lightheadedness, nausea, and vomiting. Workup and neuro exam 
only revealing for positive orthostatics, ___ was 
negative, no aural fullness, only recent URI that she is now 
recovered from. She was seen and evaluated by neurology who did 
not feel a central cause was the culprit and given the 
resolution of her symptoms without neurological findings, it was 
felt to be benign. She underwent CT head and CTA, both of which 
were unrevealing. Her vertigo self resolved with supportive 
care. Her nausea was related to her vertigo. It was NBNB and 
happened only once while on the medicine service after eating. 
At time of discharge she was able to tolerate POs. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Omeprazole 20 mg PO DAILY 
2. Simvastatin 20 mg PO QPM 

 
Discharge Medications:
1.  Ondansetron 8 mg PO Q8H:PRN nausea Duration: 5 Days 
RX *ondansetron HCl 8 mg 1 tablet(s) by mouth TID:PRN Disp #*15 
Tablet Refills:*0 
2.  Omeprazole 20 mg PO DAILY  
3.  Simvastatin 20 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
? Vestibular Neuritis 
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to the hospital for dizziness and nausea. 
These symptoms resolved with supportive care. It is unclear what 
caused your symptoms but our neurology team believes it was a 
benign cause and that you should get better with time. Please 
stay hydrated. When you stand from a seated position, make sure 
you do so slowly and with care. We are giving you medicine to 
take if you develop nausea. If you are unable to keep food and 
water down or develop any new/concerning symptoms, please return 
to the ED.

It was a pleasure taking care of you,
Your ___ Team. 
 
Followup Instructions:
___